US04776876
2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-tetrahydrofurfuryloxy-nicotinic acid
1.0 ml (0.01 mol) tetrahydrofurfuryl alcohol are added to a mixture of 1.0 g (0.033 mol) sodium hydride (80%) in 10 ml dimethylformamide and after-stirred for 1 hour. Then, 2.95 g (0.01 mol) 6-chloro-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-nicotinic acid, dissolved in 10 ml dimethylformamide, are added dropwise. The mixture is then stirred for 1 hour at 50°-60° C., cooled to room temperature, then 10 ml water is added, followed by acidifying with concentrated hydrochloric acid. The product is extracted with methylene chloride, the extract is dried across magnesium sulfate, filtered and compressed. After a certain period the product crystallizes from the obtained oil.

reactant | tetrahydrofurfuryl alcohol | 0.01 mol, 1.0 ml | C(C1CCCO1)O | C5H10O2
reactant | sodium hydride | 0.033 mol, 1.0 g | [H-].[Na+]
reactant | 6-chloro-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-nicotinic acid | 0.01 mol, 2.95 g | ClC1=NC(=C(C(=O)O)C=C1)C=1NC(C(N1)(C)C(C)C)=O | C13H14ClN3O3
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-tetrahydrofurfuryloxy-nicotinic acid | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)O)C=CC(=N1)OCC1CCCO1)C | C18H23N3O5
